US07973178B2
3-Bromo-5-[(1S)-2-tert-butoxy-1-methylethoxy]benzoic acid
To a stirred solution of 3-bromo-5-[(1S)-2-tert-butoxy-1-methylethoxy]benzonitrile (1.00 equiv, 42.60 mmoles, 13.30 g) in ethanol (135 mL) and water (13.30 mL) was added sodium hydroxide liquor (46/48% w/w, 5213.0 mmol, 12.10 mL, 18.27 g). The resultant yellow solution was heated to reflux for 1 hour and the solvent removed in vacuo to give a wet orange solid. The mixture was partitioned between water (150 mL) and MTBE (100 mL). The coloured upper organic phase contained two layers and was separated from the lower aqueous phase. Note: high solubility of the product sodium salt in the organic phase; only minor loss to the aqueous layer. The organic layers were concentrated to give a gummy orange solid (approx 18 g). The residue was partitioned between aqueous HCl (1M, 200 mL) and MTBE (150 mL). The Layers were separated and the aqueous phase further extracted with MTBE (100 mL). The organic phases were combined, washed with saturated brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give an orange gum (12.85 g), which solidified on standing.

reactant | 3-bromo-5-[(1S)-2-tert-butoxy-1-methylethoxy]benzonitrile | 42.60 mmoles, 13.30 g, 1.00 equiv | BrC=1C=C(C#N)C=C(C1)O[C@H](COC(C)(C)C)C | C14H18BrNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 135 mL | C(C)O | C2H6O
solvent | water | 13.30 mL | O | H2O
product | 3-Bromo-5-[(1S)-2-tert-butoxy-1-methylethoxy]benzoic acid | approx 18 g | BrC=1C=C(C(=O)O)C=C(C1)O[C@H](COC(C)(C)C)C | C14H19BrO4
